US07005439B2
a) N-(5-Chloro-2-hydroxy-pheny)-isobutyramide
In a flask was added 4-chloro-2-aminophenol (1.2 g, 8.39 mmole) and water (25 ml). The suspension was vigorously stirred and isobutyric anhydride (1.6 ml, 10.5 mmole) was added. The mixture was heated to 60° C. for 30 minutes under vigorous stirring. The emulsion was cooled, and a precipitate was formed, which was collected through filtration. The solid was washed twice with water on the filter and was finally dried to give 1.4 g (78%) of the sub-title compound as a white solid.

reactant | 4-chloro-2-aminophenol | 8.39 mmole, 1.2 g | ClC1=CC(=C(C=C1)O)N | C6H6ClNO
reactant | isobutyric anhydride | 10.5 mmole, 1.6 ml | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
solvent | water | 25 ml | O | H2O
product | N-(5-Chloro-2-hydroxy-pheny)-isobutyramide | 1.4 g, 78% | ClC=1C=CC(=C(C1)NC(C(C)C)=O)O | C10H12ClNO2
